* SPICE3 file created from full_adder_magic.ext - technology: scmos
.SUBCKT full_add_mag A B C_IN SUM C_OUT VDD GND
.OPTION scale=0.09u

M1000 VDD B half_adder_magic_0/xor_magic_0/a_13_6# half_adder_magic_0/xor_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=960 pd=624 as=48 ps=28
M1001 half_adder_magic_0/xor_magic_0/a_80_n12# half_adder_magic_0/xor_magic_0/a_46_39# GND Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=435 ps=330
M1002 half_adder_magic_1/A half_adder_magic_0/xor_magic_0/a_46_39# VDD half_adder_magic_0/xor_magic_0/w_67_0# CMOSP w=8 l=2
+  ad=48 pd=28 as=0 ps=0
M1003 half_adder_magic_0/xor_magic_0/a_46_n26# B VDD half_adder_magic_0/xor_magic_0/w_33_n32# CMOSP w=8 l=2
+  ad=48 pd=28 as=0 ps=0
M1004 half_adder_magic_0/xor_magic_0/a_13_6# A VDD half_adder_magic_0/xor_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 half_adder_magic_1/A half_adder_magic_0/xor_magic_0/a_46_n26# half_adder_magic_0/xor_magic_0/a_80_n12# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1006 half_adder_magic_0/xor_magic_0/a_46_39# A VDD half_adder_magic_0/xor_magic_0/w_33_33# CMOSP w=8 l=2
+  ad=48 pd=28 as=0 ps=0
M1007 VDD half_adder_magic_0/xor_magic_0/a_46_n26# half_adder_magic_1/A half_adder_magic_0/xor_magic_0/w_67_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 VDD half_adder_magic_0/xor_magic_0/a_13_6# half_adder_magic_0/xor_magic_0/a_46_n26# half_adder_magic_0/xor_magic_0/w_33_n32# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 half_adder_magic_0/xor_magic_0/a_46_21# A GND Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=0 ps=0
M1010 half_adder_magic_0/xor_magic_0/a_46_n44# B GND Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=0 ps=0
M1011 half_adder_magic_0/xor_magic_0/a_13_6# B half_adder_magic_0/xor_magic_0/a_13_n12# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=24 ps=20
M1012 half_adder_magic_0/xor_magic_0/a_13_n12# A GND Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1013 half_adder_magic_0/xor_magic_0/a_46_n26# half_adder_magic_0/xor_magic_0/a_13_6# half_adder_magic_0/xor_magic_0/a_46_n44# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1014 VDD half_adder_magic_0/xor_magic_0/a_13_6# half_adder_magic_0/xor_magic_0/a_46_39# half_adder_magic_0/xor_magic_0/w_33_33# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1015 half_adder_magic_0/xor_magic_0/a_46_39# half_adder_magic_0/xor_magic_0/a_13_6# half_adder_magic_0/xor_magic_0/a_46_21# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1016 half_adder_magic_0/CARRY And_magic_0/nand_magic_0/OUTPUT VDD And_magic_0/nand_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1017 half_adder_magic_0/CARRY And_magic_0/nand_magic_0/OUTPUT GND Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1018 VDD B And_magic_0/nand_magic_0/OUTPUT And_magic_0/nand_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=48 ps=28
M1019 And_magic_0/nand_magic_0/OUTPUT A VDD And_magic_0/nand_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1020 And_magic_0/nand_magic_0/OUTPUT B And_magic_0/nand_magic_0/a_13_n12# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=24 ps=20
M1021 And_magic_0/nand_magic_0/a_13_n12# A GND Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1022 VDD C_IN half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=48 ps=28
M1023 half_adder_magic_1/xor_magic_0/a_80_n12# half_adder_magic_1/xor_magic_0/a_46_39# GND Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=0 ps=0
M1024 SUM half_adder_magic_1/xor_magic_0/a_46_39# VDD half_adder_magic_1/xor_magic_0/w_67_0# CMOSP w=8 l=2
+  ad=48 pd=28 as=0 ps=0
M1025 half_adder_magic_1/xor_magic_0/a_46_n26# C_IN VDD half_adder_magic_1/xor_magic_0/w_33_n32# CMOSP w=8 l=2
+  ad=48 pd=28 as=0 ps=0
M1026 half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/A VDD half_adder_magic_1/xor_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1027 SUM half_adder_magic_1/xor_magic_0/a_46_n26# half_adder_magic_1/xor_magic_0/a_80_n12# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1028 half_adder_magic_1/xor_magic_0/a_46_39# half_adder_magic_1/A VDD half_adder_magic_1/xor_magic_0/w_33_33# CMOSP w=8 l=2
+  ad=48 pd=28 as=0 ps=0
M1029 VDD half_adder_magic_1/xor_magic_0/a_46_n26# SUM half_adder_magic_1/xor_magic_0/w_67_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1030 VDD half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/a_46_n26# half_adder_magic_1/xor_magic_0/w_33_n32# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1031 half_adder_magic_1/xor_magic_0/a_46_21# half_adder_magic_1/A GND Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=0 ps=0
M1032 half_adder_magic_1/xor_magic_0/a_46_n44# C_IN GND Gnd CMOSN w=4 l=2
+  ad=24 pd=20 as=0 ps=0
M1033 half_adder_magic_1/xor_magic_0/a_13_6# C_IN half_adder_magic_1/xor_magic_0/a_13_n12# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=24 ps=20
M1034 half_adder_magic_1/xor_magic_0/a_13_n12# half_adder_magic_1/A GND Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1035 half_adder_magic_1/xor_magic_0/a_46_n26# half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/a_46_n44# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1036 VDD half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/a_46_39# half_adder_magic_1/xor_magic_0/w_33_33# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1037 half_adder_magic_1/xor_magic_0/a_46_39# half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/a_46_21# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1038 half_adder_magic_1/CARRY half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT VDD half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1039 half_adder_magic_1/CARRY half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT GND Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1040 VDD C_IN half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=48 ps=28
M1041 half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT half_adder_magic_1/A VDD half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1042 half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT C_IN half_adder_magic_1/and_magic_0/nand_magic_0/a_13_n12# Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=24 ps=20
M1043 half_adder_magic_1/and_magic_0/nand_magic_0/a_13_n12# half_adder_magic_1/A GND Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
M1044 C_OUT or_magic_0/nor_magic_0/OUTPUT VDD or_magic_0/nor_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=40 pd=26 as=0 ps=0
M1045 C_OUT or_magic_0/nor_magic_0/OUTPUT GND Gnd CMOSN w=4 l=2
+  ad=20 pd=18 as=0 ps=0
M1046 or_magic_0/nor_magic_0/OUTPUT half_adder_magic_0/CARRY or_magic_0/nor_magic_0/a_13_6# or_magic_0/nor_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=40 pd=26 as=48 ps=28
M1047 or_magic_0/nor_magic_0/a_13_6# half_adder_magic_1/CARRY VDD or_magic_0/nor_magic_0/w_0_0# CMOSP w=8 l=2
+  ad=0 pd=0 as=0 ps=0
M1048 GND half_adder_magic_0/CARRY or_magic_0/nor_magic_0/OUTPUT Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=24 ps=20
M1049 or_magic_0/nor_magic_0/OUTPUT half_adder_magic_1/CARRY GND Gnd CMOSN w=4 l=2
+  ad=0 pd=0 as=0 ps=0
C0 or_magic_0/nor_magic_0/w_0_0# or_magic_0/nor_magic_0/OUTPUT 0.10fF
C1 half_adder_magic_1/A VDD 0.43fF
C2 or_magic_0/nor_magic_0/w_0_0# half_adder_magic_0/CARRY 0.06fF
C3 half_adder_magic_1/A half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# 0.06fF
C4 GND VDD 0.57fF
C5 A GND 0.23fF
C6 half_adder_magic_1/CARRY or_magic_0/nor_magic_0/OUTPUT 0.05fF
C7 half_adder_magic_1/xor_magic_0/a_13_6# VDD 0.47fF
C8 A B 0.31fF
C9 half_adder_magic_0/CARRY half_adder_magic_1/CARRY 0.08fF
C10 half_adder_magic_1/xor_magic_0/a_46_39# half_adder_magic_1/xor_magic_0/a_46_n26# 0.08fF
C11 half_adder_magic_0/xor_magic_0/a_46_39# VDD 0.55fF
C12 half_adder_magic_0/xor_magic_0/a_13_6# half_adder_magic_0/xor_magic_0/a_46_n26# 0.08fF
C13 half_adder_magic_1/xor_magic_0/w_67_0# SUM 0.02fF
C14 half_adder_magic_0/xor_magic_0/w_0_0# B 0.06fF
C15 A VDD 0.12fF
C16 half_adder_magic_0/xor_magic_0/w_67_0# half_adder_magic_0/xor_magic_0/a_46_n26# 0.06fF
C17 GND half_adder_magic_1/xor_magic_0/a_46_n26# 0.10fF
C18 half_adder_magic_0/xor_magic_0/w_33_n32# half_adder_magic_0/xor_magic_0/a_13_6# 0.08fF
C19 half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# VDD 0.13fF
C20 or_magic_0/nor_magic_0/w_0_0# C_OUT 0.03fF
C21 half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/a_46_n26# 0.08fF
C22 half_adder_magic_0/xor_magic_0/w_0_0# VDD 0.08fF
C23 half_adder_magic_0/xor_magic_0/w_0_0# A 0.08fF
C24 half_adder_magic_0/xor_magic_0/w_33_33# half_adder_magic_0/xor_magic_0/a_13_6# 0.06fF
C25 half_adder_magic_0/CARRY And_magic_0/nand_magic_0/OUTPUT 0.05fF
C26 half_adder_magic_0/CARRY or_magic_0/nor_magic_0/OUTPUT 0.10fF
C27 half_adder_magic_1/xor_magic_0/a_46_n26# VDD 0.22fF
C28 B And_magic_0/nand_magic_0/w_0_0# 0.06fF
C29 half_adder_magic_0/xor_magic_0/a_46_n26# half_adder_magic_1/A 0.08fF
C30 half_adder_magic_0/xor_magic_0/a_46_n26# GND 0.10fF
C31 And_magic_0/nand_magic_0/w_0_0# VDD 0.13fF
C32 A And_magic_0/nand_magic_0/w_0_0# 0.06fF
C33 C_IN half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT 0.08fF
C34 C_OUT or_magic_0/nor_magic_0/OUTPUT 0.05fF
C35 GND half_adder_magic_1/CARRY 0.20fF
C36 C_IN half_adder_magic_1/xor_magic_0/w_0_0# 0.06fF
C37 half_adder_magic_0/xor_magic_0/a_46_39# half_adder_magic_0/xor_magic_0/a_46_n26# 0.08fF
C38 half_adder_magic_0/xor_magic_0/w_33_n32# B 0.06fF
C39 half_adder_magic_1/A half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT 0.05fF
C40 half_adder_magic_1/xor_magic_0/w_33_n32# C_IN 0.06fF
C41 half_adder_magic_0/xor_magic_0/a_46_n26# VDD 0.22fF
C42 or_magic_0/nor_magic_0/w_0_0# VDD 0.13fF
C43 GND half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT 0.09fF
C44 half_adder_magic_1/A half_adder_magic_1/xor_magic_0/w_0_0# 0.08fF
C45 half_adder_magic_0/xor_magic_0/w_33_n32# VDD 0.08fF
C46 half_adder_magic_0/xor_magic_0/w_33_33# half_adder_magic_0/xor_magic_0/a_46_39# 0.02fF
C47 half_adder_magic_1/CARRY VDD 0.13fF
C48 half_adder_magic_0/xor_magic_0/w_33_33# VDD 0.09fF
C49 half_adder_magic_0/CARRY C_IN 0.72fF
C50 half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/w_0_0# 0.02fF
C51 half_adder_magic_1/xor_magic_0/w_67_0# half_adder_magic_1/xor_magic_0/a_46_39# 0.08fF
C52 half_adder_magic_0/xor_magic_0/w_33_33# A 0.06fF
C53 half_adder_magic_1/CARRY half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# 0.03fF
C54 half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/w_33_n32# 0.08fF
C55 GND And_magic_0/nand_magic_0/OUTPUT 0.09fF
C56 VDD half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT 0.24fF
C57 GND or_magic_0/nor_magic_0/OUTPUT 0.22fF
C58 SUM VDD 0.30fF
C59 half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT 0.09fF
C60 B And_magic_0/nand_magic_0/OUTPUT 0.08fF
C61 half_adder_magic_1/xor_magic_0/w_0_0# VDD 0.08fF
C62 half_adder_magic_1/xor_magic_0/w_33_33# half_adder_magic_1/xor_magic_0/a_46_39# 0.02fF
C63 half_adder_magic_0/CARRY GND 0.26fF
C64 half_adder_magic_1/xor_magic_0/w_33_n32# VDD 0.08fF
C65 half_adder_magic_1/xor_magic_0/w_33_33# half_adder_magic_1/A 0.06fF
C66 And_magic_0/nand_magic_0/OUTPUT VDD 0.24fF
C67 VDD or_magic_0/nor_magic_0/OUTPUT 0.10fF
C68 A And_magic_0/nand_magic_0/OUTPUT 0.05fF
C69 half_adder_magic_1/xor_magic_0/a_46_n26# SUM 0.08fF
C70 half_adder_magic_1/xor_magic_0/w_67_0# VDD 0.08fF
C71 half_adder_magic_1/xor_magic_0/w_33_33# half_adder_magic_1/xor_magic_0/a_13_6# 0.06fF
C72 half_adder_magic_0/xor_magic_0/a_13_6# GND 0.01fF
C73 half_adder_magic_0/xor_magic_0/w_67_0# half_adder_magic_1/A 0.02fF
C74 half_adder_magic_0/CARRY VDD 0.11fF
C75 half_adder_magic_1/xor_magic_0/w_33_n32# half_adder_magic_1/xor_magic_0/a_46_n26# 0.02fF
C76 half_adder_magic_0/xor_magic_0/a_13_6# B 0.15fF
C77 GND C_OUT 0.04fF
C78 half_adder_magic_1/xor_magic_0/w_33_33# VDD 0.09fF
C79 half_adder_magic_0/xor_magic_0/a_13_6# half_adder_magic_0/xor_magic_0/a_46_39# 0.08fF
C80 half_adder_magic_1/xor_magic_0/w_67_0# half_adder_magic_1/xor_magic_0/a_46_n26# 0.06fF
C81 half_adder_magic_0/xor_magic_0/a_13_6# VDD 0.47fF
C82 half_adder_magic_0/xor_magic_0/w_33_n32# half_adder_magic_0/xor_magic_0/a_46_n26# 0.02fF
C83 A half_adder_magic_0/xor_magic_0/a_13_6# 0.13fF
C84 half_adder_magic_0/xor_magic_0/w_67_0# half_adder_magic_0/xor_magic_0/a_46_39# 0.08fF
C85 half_adder_magic_1/A C_IN 0.31fF
C86 or_magic_0/nor_magic_0/w_0_0# half_adder_magic_1/CARRY 0.06fF
C87 half_adder_magic_0/xor_magic_0/w_67_0# VDD 0.09fF
C88 half_adder_magic_0/xor_magic_0/w_0_0# half_adder_magic_0/xor_magic_0/a_13_6# 0.02fF
C89 VDD C_OUT 0.11fF
C90 GND C_IN 0.39fF
C91 half_adder_magic_1/xor_magic_0/a_13_6# C_IN 0.15fF
C92 And_magic_0/nand_magic_0/w_0_0# And_magic_0/nand_magic_0/OUTPUT 0.09fF
C93 half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/xor_magic_0/a_46_39# 0.08fF
C94 GND half_adder_magic_1/A 0.23fF
C95 half_adder_magic_1/xor_magic_0/a_13_6# half_adder_magic_1/A 0.13fF
C96 half_adder_magic_0/CARRY And_magic_0/nand_magic_0/w_0_0# 0.03fF
C97 half_adder_magic_1/CARRY half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT 0.05fF
C98 half_adder_magic_1/xor_magic_0/a_13_6# GND 0.01fF
C99 B GND 0.28fF
C100 C_IN half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# 0.06fF
C101 half_adder_magic_1/xor_magic_0/a_46_39# VDD 0.55fF
C102 C_OUT Gnd 0.05fF
C103 or_magic_0/nor_magic_0/OUTPUT Gnd 0.20fF
C104 or_magic_0/nor_magic_0/w_0_0# Gnd 1.12fF
C105 half_adder_magic_1/and_magic_0/nand_magic_0/OUTPUT Gnd 0.20fF
C106 VDD Gnd 1.25fF
C107 half_adder_magic_1/and_magic_0/nand_magic_0/w_0_0# Gnd 1.12fF
C108 half_adder_magic_1/CARRY Gnd 0.25fF
C109 half_adder_magic_1/xor_magic_0/a_46_n26# Gnd 0.37fF
C110 C_IN Gnd 2.48fF
C111 half_adder_magic_1/xor_magic_0/a_46_39# Gnd 0.29fF
C112 half_adder_magic_1/xor_magic_0/a_13_6# Gnd 0.36fF
C113 half_adder_magic_1/A Gnd 0.63fF
C114 half_adder_magic_1/xor_magic_0/w_33_n32# Gnd 0.64fF
C115 half_adder_magic_1/xor_magic_0/w_67_0# Gnd 0.64fF
C116 half_adder_magic_1/xor_magic_0/w_0_0# Gnd 0.64fF
C117 half_adder_magic_1/xor_magic_0/w_33_33# Gnd 0.64fF
C118 And_magic_0/nand_magic_0/OUTPUT Gnd 0.20fF
C119 And_magic_0/nand_magic_0/w_0_0# Gnd 1.12fF
C120 GND Gnd 6.33fF
C121 half_adder_magic_0/CARRY Gnd 0.56fF
C122 half_adder_magic_0/xor_magic_0/a_46_n26# Gnd 0.37fF
C123 B Gnd 1.47fF
C124 half_adder_magic_0/xor_magic_0/a_46_39# Gnd 0.29fF
C125 half_adder_magic_0/xor_magic_0/a_13_6# Gnd 0.36fF
C126 A Gnd 0.63fF
C127 half_adder_magic_0/xor_magic_0/w_33_n32# Gnd 0.64fF
C128 half_adder_magic_0/xor_magic_0/w_67_0# Gnd 0.64fF
C129 half_adder_magic_0/xor_magic_0/w_0_0# Gnd 0.64fF
C130 half_adder_magic_0/xor_magic_0/w_33_33# Gnd 0.64fF

.ENDS full_add_mag
